US04224438
Adenosine-5'-carboxylic acid benzyl ester
5 g of adenosine-5'-carboxylic acid methyl ester are suspended in 200 ml of benzyl alcohol, with the addition of 7 g of triethylamine, and the reaction mixture heated to 100° C. for 5 hours, the methyl ester thereby going into solution. After termination of the reaction, the base and excess alcohol are stripped off in a vacuum, the residue is triturated with ether for the removal of traces of amine and solvent and, after filtering off with suction, the product is recrystallized from water. There are thus obtained 3.3 g (53% of theory) of adenosine-5'-carboxylic acid benzyl ester, which has a melting point of 144°-145° C.

reactant | adenosine-5'-carboxylic acid methyl ester | 5 g | COC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C12H15N5O6
reactant | triethylamine | 7 g | C(C)N(CC)CC | C6H15N
solvent | benzyl alcohol | 200 ml | C(C1=CC=CC=C1)O | C7H8O
product | Adenosine-5'-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C([C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O)O)O | C18H19N5O6
